US08217051B2
To a mixture of 2-(4-chloro-2-formyl-phenoxy)-2-methyl-propionic acid tert-butyl ester (5.17 g, 17.3 mmol) and 6-chlorooxindole (2.89 g, 17.3 mmol) were anhydrous methanol (100 mL) at room temperature was slowly added piperidine (1.7 mL, 17.3 mmol). The reaction mixture was heated at 70° C. for 0.5 h. Then the mixture was cooled to room temperature and filtered. The precipitate was dried and collected to give E/Z-2-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-2-methyl-propionic acid tert-butyl ester as a yellow solid (Yield 6.5 g, 84%).

reactant | 2-(4-chloro-2-formyl-phenoxy)-2-methyl-propionic acid tert-butyl ester | 17.3 mmol, 5.17 g | C(C)(C)(C)OC(C(C)(C)OC1=C(C=C(C=C1)Cl)C=O)=O | C15H19ClO4
reactant | 6-chlorooxindole | 17.3 mmol, 2.89 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | piperidine | 17.3 mmol, 1.7 mL | N1CCCCC1 | C5H11N
solvent | methanol | 100 mL | CO | CH4O
product | Z-2-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-2-methyl-propionic acid tert-butyl ester | Yield 6.5 g, 84% | C(C)(C)(C)OC(C(C)(C)OC1=C(C=C(C=C1)Cl)\C=C\1/C(NC2=CC(=CC=C12)Cl)=O)=O | C23H23Cl2NO4
